US04371547
(a) 2,6-Dimethoxy-3-(α-methoxybenzyl)tetrahydropyran
152 g. (1.0 mole) benzaldehyde dimethyl acetal was combined with 3 g. ZnCl2. While stirring and cooling to 25° C., 114 g. (1 mole) 2-methoxy-2,3-dihydro-4H-pyran was added. After stirring for an hour, the catalyst was neutralized by the addition of 15 g. potassium carbonate in 30 ml. water. The mixture was then extracted with ether and the combined ether extracts were washed with water and dried over sodium sulfate. After the removal of the solvent, the residue was distilled in vacuo to give the title compound; b.p. 120°-128° C. (0.6 mm). Yield: 243 g. (91%).

reactant | benzaldehyde dimethyl acetal | 1.0 mole | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | 2-methoxy-2,3-dihydro-4H-pyran | 1 mole | COC1OC=CCC1 | C6H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
solvent | water | O | H2O
product | 2,6-Dimethoxy-3-(α-methoxybenzyl)tetrahydropyran | COC1OC(CCC1C(C1=CC=CC=C1)OC)OC | C15H22O4
